Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y.o M transferred from ___ with a history of LUE
hemangioma, he was sent in by his PCP for MRI showing radial and
brachial artery involvement and cyanotic fingers. He reports 
that
he has had this hemangioma since he was born. Over the past 
week,
he has had worsening edema, cyanotic fevers, and paresthesias. 
He
also endorses a fever to 103.1 measured at home. He denies 
cough,
abdominal pain, nausea/vomiting/diarrhea, urinary frequency,
hematuria, or dysuria. 
 
IN the ED, initial VS were 100.6 86 114/73 18 97% RA. 
Labs notable for K of 3.3, BUN/CR of ___. H/H of 11.3/33.6. 
INR
1.4. Lactate 0.8. 
He received Tylenol, IV cefepime, IV vancomycin, 40 meq of KCl,
and IV fluids.
He was evaluated by vascular surgery who recommended ___
surgery and to start broad spectrum antibiotics due to concern
for cellulitis.
___ surgery recommended ruling out bloodstream infection and
that they would follow for coordinated intervention in the
future. 

Upon arrival to the floor, the patient tells the story as
follows. He was diagnosed with this hemangioma since a child and
it has slowly grown over the years. He had been followed by a
variety of providers, no one consistently in recent years, but
most recently saw a vascular specialist in ___, who
recommend no surgical intervention given that it would require
complex reconstruction. 

He reports that approximately one week ago he went to urgent 
care
with fevers. He had no dyspnea, chest pain, cough, runny nose.
Apparently CXR was obtained and he was told he had pneumonia. He
was given a prescription for doxycycline which he took for three
days. They called him to see if he still had fever, and because
he did, they told him to seek medical attention. He has noticed 
a
significant growth in his hematoma over the past month. He
reports that over the past week, he noticed a lot of redness and
warmth of the surrounding skin and that it was unusual tense. He
has limited movement in his hand which is unchanged. He had blue
discoloration of his fingers which has improved since he has 
been
in the ED receiving antibiotics.  

 
Past Medical History:
- Left arm hemangioma
- Prior ?superficial DVTs associated with his hemangioma for
which he is prescribed full dose aspirin

 
Social History:
___
Family History:
Father - prostate cancer, diabetes; NO FH of blood clots

 
Physical Exam:
ADMISSION EXAM
VITALS:  99.2 PO  133/72 R Sitting  102  20  98%  RA  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: + large hemangioma of the left elbow which is nontender, +
surrounding confluent erythema and warm consistent with
cellulitis, blue fingernail beds, however, hand warm, radial
pulses symmetric bilaterally, motor function normal per patient,
left hand with edema
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
VITALS: reviewed in eFlowsheets
Gen: NAD laying in bed
HEENT: anicteric sclera, EOMI, MMM
CV: RRR
RESP: Breathing non-labored
GI: non-distended
EXT: L arm w/ intact radial pulse
SKIN: large (20x20cm approx.) mass over the left elbow with
resolved arm & forearm swelling as well as resolved erythema and 
induration
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs. Normal sensation to light 
touch
PSYCH: calm, cooperative
 
Pertinent Results:
Admission Labs:
===============
___ 04:40PM BLOOD WBC-4.6 RBC-3.83* Hgb-11.3* Hct-33.6* 
MCV-88 MCH-29.5 MCHC-33.6 RDW-12.4 RDWSD-39.8 Plt ___
___ 04:40PM BLOOD Neuts-75.2* Lymphs-9.9* Monos-13.2* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-3.48 AbsLymp-0.46* 
AbsMono-0.61 AbsEos-0.01* AbsBaso-0.01
___ 04:40PM BLOOD ___ PTT-28.9 ___
___ 04:40PM BLOOD Glucose-123* UreaN-9 Creat-0.7 Na-135 
K-3.3* Cl-94* HCO3-27 AnGap-14
___ 06:30AM BLOOD ALT-41* AST-44* AlkPhos-71 TotBili-0.4
___ 04:40PM BLOOD Calcium-8.6 Phos-2.1* Mg-2.3
___ 06:50AM BLOOD CRP-173.7*

Notable labs since admission:
-___ CRP 173.7

Micro:
MSSA

Imaging:
-MRA arm ___ ___
Extensive vascular malformation with suggestion of feeders from
the brachial artery and likely the radial artery. There is
intramuscular and severe subcutaneous involvement.

-___ TTE
IMPRESSION: No 2D echocardiographic evidence for endocarditis.
Mild symmetric left ventricular hypertrophy with normal cavity
size and regional/global biventricular systolic function. No
pathologic valvular flow identified. No vegetations seen. Mildly
dilated aortic sinus and aortic arch. Normal estimated pulmonary
artery systolic pressure. 
CLINICAL IMPLICATIONS: The patient has a mildly dilated 
ascending
aorta. Based on ___ ACCF/AHA Thoracic Aortic Guidelines, if not
previously known or a change, a follow-up echocardiogram is
suggested in ___ year; if previously known and stable, a follow-up
echocardiogram is suggested in ___ years.

TEE: no vegetations

Discharge Labs:
===============
___ 07:30AM BLOOD WBC-5.6 RBC-4.04* Hgb-12.0* Hct-36.8* 
MCV-91 MCH-29.7 MCHC-32.6 RDW-12.7 RDWSD-42.4 Plt ___
___ 07:30AM BLOOD Glucose-98 UreaN-13 Creat-0.8 Na-138 
K-4.7 Cl-99 HCO3-27 AnGap-12
___ 07:30AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.___ is a ___ with large LUE hemangioma with recent 
enlargement & MRA showing complex vascular involvement, who 
presented with acute cellulitis complicated by MSSA bacteremia, 
as well as edema and cyanosis of the arm.

# Cellulitis: presented with acute cellulitis of his LUE in the 
setting of compromised skin barrier and enlarging hemangioma. 
Blood cultures were positive for MSSA, likely seeded from 
cellulitis. Initially treated with vancomycin and cefepime, then 
narrowed to cefazolin after culture data available. Cellulitis 
resolved clinically with IV cefazolin.

# ___ bacteremia
Blood cultures grew MSSA. Initially treated with vancomycin, 
then narrowed to cefazolin after culture data was available. ID 
was consulted. They recommended cefazolin for MSSA. A TTE was 
done that showed no evidence of vegetations. TEE also negative 
for vegetations. He had persistent bacteremia with positive 
blood culture on ___ growing MSSA, despite having received more 
than 3 days of appropriate IV antibiotics by that point. Blood 
cultures from ___ were also positive. Given negative TEE, ID 
felt that slow to clear blood cultures were likely due to small 
foci of infection within hemangioma. Blood cultures remain 
negative from ___ onwards. He will need 4 weeks of IV cefazolin 
from date of first negative culture (projected end date ___. 

# Enlarging left elbow hemangioma: He was seen by vascular 
surgery and oncologic surgery. Given no evidence active bleeding 
on MRA, there was not felt to be any urgent vascular surgical 
intervention indicated at this time. He had hand paresthesias 
were thought to be likely due to nerve compression from the 
hemangioma rather than vascular compromise given palpable radial 
pulses distally.

# Mildly dilated ascending aorta
Noted on ___ TTE. Based on ___ ACCF/AHA Thoracic Aortic 
Guidelines, if not
previously known or a change, a follow-up echocardiogram is 
suggested in ___ year; if previously known and stable, a follow-up 
echocardiogram is suggested in ___ years.
Communicated to patient that he will need a follow up TTE in one 
year for monitoring, and he will need his PCP to arrange this.

Transitional Issues:
====================
- discharged on IV cefazolin for 4 week course (last day ___
- needs TTE in one year to follow up mildly dilated ascending 
aorta
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  CeFAZolin 2 g IV Q8H Duration: 4 Weeks 
RX *cefazolin in dextrose (iso-os) 2 gram/50 mL 2 g IV every 
eight (8) hours Disp #*84 Intravenous Bag Refills:*1 
2.  Aspirin 325 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Cellulitis
MSSA bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with skin infection that spread to your blood. We 
started you on IV antibiotics to treat the infection. It will be 
very important to continue taking the antibiotics at home for a 
total of four weeks. You will also need to follow up with the 
infectious disease doctors in ___.

We would recommend following up with a surgeon to see if any 
surgery is possible to treat your hemangioma. You can call 
___ to schedule an appointment with Dr. ___.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___